US07465795B2
4-amino-N-propyl-8-(3-quinolyl)cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 3-quinoline boronic acid (168 mg, 0.97 mmol) were reacted to afford the title compound (93 mg, 80.5% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 9.24 (d, J=2.2 Hz, 1H), 8.50-8.60 (m, 2H), 8.18 (d, J=8.6 Hz, 1H), 7.88-7.98 (m, 3H), 7.82 (d, J=8.2 Hz, 1H), 7.76 (m, 1H), 7.59 (m, 1H), 3.47 (q, J=6.7 Hz, 2H), 1.68 (m, J=7.2 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H) MS APCI, m/z=358 (M+H) HPLC 1.88 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-quinoline boronic acid | 0.97 mmol, 168 mg | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
product | 4-amino-N-propyl-8-(3-quinolyl)cinnoline-3-carboxamide | 93 mg, 80.5% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC2=CC=CC=C2C1)C(=O)NCCC | C21H19N5O
